US06930208B2
Step 2: Methyl 2-chloro-3-(methylcarbonylmethoxy)-4-ethylsulfonylbenzoate
0.922 g (7.2 mmol) of K2CO3, 0.179 g (1.10 mmol) of KI and 0.454 g (4.7 mmol) of chloroacetone were introduced into 30 ml of DMF. 1.000 g (3.6 mmol) of methyl 2-chloro-3-hydroxy-4-ethylsulfonylbenzoate were added at RT and the mixture was then heated for 4 hours at 80° C. The mixture was then poured into water and extracted with diisopropyl ether. The combined organic phases were washed with water, dried over Na2SO4 and evaporated to dryness. The resulting crude methyl 2-chloro-3-(methylcarbonylmethoxy)-4-ethylsulfonyl benzoate viscous oil was sufficiently pure for the subsequent reactions.

reactant | K2CO3 | 7.2 mmol, 0.922 g | C(=O)([O-])[O-].[K+].[K+]
reactant | chloroacetone | 4.7 mmol, 0.454 g | ClCC(C)=O | C3H5ClO
reactant | DMF | 30 ml | CN(C)C=O | C3H7NO
reactant | methyl 2-chloro-3-hydroxy-4-ethylsulfonylbenzoate | 3.6 mmol, 1.000 g | ClC1=C(C(=O)OC)C=CC(=C1O)S(=O)(=O)CC | C10H11ClO5S
solvent | water | O | H2O
product | Methyl 2-chloro-3-(methylcarbonylmethoxy)-4-ethylsulfonylbenzoate | ClC1=C(C(=O)OC)C=CC(=C1OCC(=O)C)S(=O)(=O)CC | C13H15ClO6S
